US08168659B2
1-Methyl-1-(6-trifluoromethyl-pyridin-3-yl)-ethylamine
Heat a mixture of N-[1-Methyl-1-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide (93.5 moles, 19.1 kg), concentrated hydrochloric acid (805.9 moles; 66.2 L; 79.4 kg), and water (79.4 L; 79.4 kg) to 95-100° C. with stirring under nitrogen for 24 hours. Cool the reaction mixture to 20-35° C. and observe completion of the reaction by HPLC. Cool the reaction vessel to 10-20° C. and add tert-butyl methyl ether (105.4 L; 78.0 kg). Separate the phases, and discard the organic layer. Add 15% sodium hydroxide (910.9 moles; 205 L; 242.9 kg) to the aqueous phase and observe a pH of 9.5-10.5. Extract the aqueous layer with ethyl acetate (3×89 mL; 3×80.0 kg), combine the organic layers, and discard the aqueous phase. Concentrate the solution to approximately 2 volumes, add tert-butyl methyl ether (174 L; 129.1 kg), and concentrate the solution to approximately 2 volumes. Dilute the reaction vessel with n-heptane (168 L; 115.0 kg), concentrate the solution to approximately 2 volumes, and dilute with additional n-heptane (30 L, 20.7 kg). Cool the contents of the reaction mixture to 0-5° C. and stir the mixture for 2 hours at 0-5° C. Filter and dry the resultant solids under vacuum at 35-45° C. to afford the titled compound (14.19 kg; 74.3%, based on HPLC) as a 97.9% pure tan powder.

reactant | N-[1-Methyl-1-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide | 93.5 moles, 19.1 kg | CC(C)(C=1C=NC(=CC1)C(F)(F)F)NC(C)=O | C11H13F3N2O
reactant | hydrochloric acid | 805.9 moles, 66.2 L, 79.4 kg | Cl | ClH
reactant | water | 79.4 L, 79.4 kg | O | H2O
reactant | sodium hydroxide | 910.9 moles, 205 L, 242.9 kg | [OH-].[Na+]
solvent | tert-butyl methyl ether | 105.4 L, 78.0 kg | COC(C)(C)C | C5H12O
product | 1-Methyl-1-(6-trifluoromethyl-pyridin-3-yl)-ethylamine | 14.19 kg, 74.3% | CC(C)(C=1C=NC(=CC1)C(F)(F)F)N | C9H11F3N2
